US04923857
To a suspension of lithium aluminum hydride (10.25 g) in tetrahydrofuran (550 ml) was added dropwise a solution of 1-benzyl-2,5-bis(ethoxycarbonyl)pyrrolidine (55 g) in tetrahydrofuran (100 ml). The reaction mixture was stirred for 30 minutes at 0° C., allowed to warm to room temperature and then stirred at the same temperature for 1 hour. And then water was added carefully until excess lithium aluminum hydride was decomposed. After the precipitate was filtered off, the filtrate was evaporated under reduced pressure to give crude 1-benzyl-2,5-bis(hydroxymethyl)pyrrolidine (38.52 g).

reactant | lithium aluminum hydride | 10.25 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-benzyl-2,5-bis(ethoxycarbonyl)pyrrolidine | 55 g | C(C1=CC=CC=C1)N1C(CCC1C(=O)OCC)C(=O)OCC | C17H23NO4
reactant | water | O | H2O
solvent | tetrahydrofuran | 550 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-benzyl-2,5-bis(hydroxymethyl)pyrrolidine | 38.52 g | C(C1=CC=CC=C1)N1C(CCC1CO)CO | C13H19NO2
